US07153548B2
(4) Synthesis of 4,4′-di(2,3,4-tri(4-acryloyloxybutyloxy)-cinnamoyloxy)biphenyl (m-40)
Into a three-neck flask, 2,3,4-tri(4-acryloyloxy-butyloxy)cinnamic acid (10.0 g), thionyl chloride (6.1 g), dimethylformamide (0.01 g) and 30 mL of toluene were added and stirred at 40° C. for 30 minutes. After cooling, toluene and excess thionyl chloride were removed by distillation and then 100 ml of tetrahydrofuran was added. To this reaction solution, 4,4′-dihydroxybiphenyl (1.6 g) was added and after cooling to 5° C., triethylamine (2.8 mL) was added dropwise. Subsequently, 4-dimethylaminopyridine (0.1 g) was added and after heating to 25° C., the solution was stirred for 5 hours. The resulting reaction solution was added to water (500 mL) and crystals precipitated were collected by filtration. The obtained crystals were dissolved in dimethylacetamide (20 mL), triethylamine (2.8 mL) was added thereto and the resulting solution was stirred at 60° C. for 1 hour. After cooling, the reaction solution was extracted with ethyl and washed with water. The extract was concentrated and then purified by column chromatography to obtain the titled compound (9.5 g). Yield: 85%. The NMR spectrum of m-40 obtained is shown below.

reactant | 2,3,4-tri(4-acryloyloxy-butyloxy)cinnamic acid | 10.0 g | C(C=C)(=O)OCCCCOC1=C(C=CC(=O)O)C=CC(=C1OCCCCOC(C=C)=O)OCCCCOC(C=C)=O | C30H38O11
reactant | thionyl chloride | 6.1 g | S(=O)(Cl)Cl | Cl2OS
reactant | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
catalyst | dimethylformamide | 0.01 g | CN(C=O)C | C3H7NO
solvent | water | 500 mL | O | H2O
product | 4,4′-di(2,3,4-tri(4-acryloyloxybutyloxy)-cinnamoyloxy)biphenyl | 9.5 g, Yield: 85% | C(C=C)(=O)OCCCCOC1=C(C=CC(=O)OC2=CC=C(C=C2)C2=CC=C(C=C2)OC(C=CC2=C(C(=C(C=C2)OCCCCOC(C=C)=O)OCCCCOC(C=C)=O)OCCCCOC(C=C)=O)=O)C=CC(=C1OCCCCOC(C=C)=O)OCCCCOC(C=C)=O | C72H82O22
